Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
Biliary obstruction
 
Major Surgical or Invasive Procedure:
ERCP with stenting and biopsy ___

 
History of Present Illness:
Ms. ___ is a ___ who is presenting as at transfer for an 
abnormal CT with concern for pancreatic cancer. 
The patient reports that she has had several symptoms recently.  
She has noted weight loss over the past 6 months of around 17 
pounds, extreme fatigue, and severe nausea.  She was noting that 
she was needing to sleep through most of the afternoon.  She is 
beginning to experience poor appetite, and she also noticed red 
urine for the past month which is now beginning to worsen.  She 
states that she is currently taking Bactrim for a possible UTI.  
Given her worsening symptoms, she therefore presented to her 
primary care provider's office.  
An abdominal ultrasound was done, which was concerning for a 
pancreatic mass with multiple heterogeneous small lesions in the 
liver.  Following this result, she was referred to ___ 
___ for further workup.  In the emergency department, she 
had a CT torso with contrast.  This was concerning for 3 
segmental pulmonary emboli in the past anterior basal segment 
with mild right heart strain.  Troponin was negative.  She was 
given Lovenox.  CT abdomen pelvis with significant for multiple 
metastatic hepatic tumors with central necrosis as well as 
concern for pancreatic carcinoma.  Given need for ERCP, she was 
referred to twice daily and see emergency department.

Of note, family history is significant for colon polyps, 
pancreas, gastric, breast, and lung cancers.  Patient was seen 
by geneticist last year.  Extensive family history was taken 
(please see family history below).  Genetic testing was done 
which were all negative.
 
In the ED, initial vitals: T 98.1, HR 76, BP 132/65, RR 16, 99% 
RA 
  
Labs were significant for  
- CBC: WBC 9.5, hgb 10.6, plt 182 

- Lytes:
130 / 94 / 6  
--------------- 83 
4.7 \ 23 \ 0.5  

- LFTS: AST: 272 ALT: 238 AP: 941 Tbili: 7.1 Alb: 3.2 
- lipase 223

- Lactate:1.1

No further imaging was done in the ED. 

Patient was evaluated by GI team, who recommended consult by 
ERCP team and possible MRCP

Vitals prior to transfer: T 98.4, HR 82, BP 108/53, RR 18, 97% 
RA 

Currently, patient reports that "this came out of the blue."  
She endorses some anxiety around with the next few days of 
breathing. She reports abdominal soreness, and has no desire to 
eat.  She denies any shortness of breath though notes that she 
had been feeling somewhat dyspneic with walking recently.  No 
chest pain.
 
ROS: Positive as noted above.  Negative for: No fevers, chills, 
night sweats. No changes in vision or hearing, no changes in 
balance. No cough, no shortness of breath. No chest pain or 
palpitations. No diarrhea. No dysuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  

 
Past Medical History:
- multiple colon polyps at age of ___, including a 15mm "pre 
cancerous" polyp in the colon and a 2mm polyp in the rectum
- anxiety

 
Social History:
___
Family History:
(per geneticist appt - pedigree scanned into omr)
-a sister with lung cancer in her ___ who died at ___ (heavy 
smoker). This individual had a daughter who was diagnosed with 
bladder cancer recently at the age of ___;
-a sister with pancreas cancer diagnosed at ___ who died shortly 
after her diagnosis;
-a sister with breast cancer recently diagnosed age at ___. This 
individual reportedly had BRCA1/2 testing only which was 
negative, and declined additional genetic testing. We do not 
have documentation of these results;
-a sister with LCIS diagnosed at ___, is now ___;
-three brothers (ages ___) with multiple colon polyps. We do 
not have documentation of number or type of polyps;
-a mother with gastric polyps and cancer of gastric vs colon vs 
liver primary who died at ___;
-maternal aunt with breast cancer in her ___, who son had colon 
or stomach cancer;
-maternal aunt who was unaffected with cancer when she died at 
___ but had one son with bladder and pancreas cancer who died at 
___, and one daughter with breast cancer in her ___ and is now in 
her ___
-maternal uncle with lung cancer whose daughter also died from 
lung cancer;
-maternal grandfather who died in his ___ from liver cancer;
-father who died at ___ unaffected with cancer;
-a paternal aunt who died from lung cancer in her ___.
 
Physical Exam:
EXAM on admission
VITALS: T 98.1, HR 87, BP 112/63, 96%RA 
GENERAL: Alert and in no apparent distress.  Tearful at times 
during the interview.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in 
epigastric region.  No rebound tenderness.  Negative ___ 
sign..  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs. Left leg slightly 
swollen compared to right
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x3. CN ___ intact. ___ strength in upper 
and lower extremities. Normal sensation to light touch in upper 
and lower extremities 
PSYCH: pleasant, appropriate affect

Exam on discharge
AVSS
Lungs clear, breathing unlabored
Heart regular
Abdomen soft, NT, ND, BS+
Extremities WWP with no edema
Skin mildly jaundiced, improved
 
Pertinent Results:
Labs this admission

___ 06:51PM BLOOD WBC-9.5 RBC-3.08* Hgb-10.6* Hct-31.4* 
MCV-102* MCH-34.4* MCHC-33.8 RDW-17.9* RDWSD-66.7* Plt ___
___ 07:35AM BLOOD WBC-9.5 RBC-2.66* Hgb-9.1* Hct-27.9* 
MCV-105* MCH-34.2* MCHC-32.6 RDW-16.1* RDWSD-62.2* Plt ___
___ 06:51PM BLOOD Glucose-83 UreaN-6 Creat-0.5 Na-130* 
K-4.7 Cl-94* HCO3-23 AnGap-13
___ 07:35AM BLOOD Glucose-85 UreaN-6 Creat-0.4 Na-132* 
K-4.0 Cl-93* HCO3-24 AnGap-15
___ 06:51PM BLOOD ALT-238* AST-272* AlkPhos-941* 
TotBili-7.1*
___ 07:35AM BLOOD ALT-108* AST-77* AlkPhos-631* 
TotBili-3.6*
___ 06:51PM BLOOD Lipase-223*
___ 08:13AM BLOOD Lipase-141*
___ 06:51PM BLOOD Albumin-3.2* Calcium-9.1 Phos-4.0 Mg-2.0

Imaging/other studies
# ___ Abdominal ultrasound
Impression:
1.  Multiple intrahepatic mass lesion suspicious for multifocal 
hepatic metastases.
2.  Probable 3.3 x 3.6 x 2.6 cm hypoechoic mass pancreatic head 
with associated dilatation of the extrahepatic common bile duct 
dilatation of the gallbladder suggesting proximal obstructive 
changes.  Contrast CT of the abdomen is suggested for further 
evaluation.

# ___ CT torso w/ contrast
Impression:
1.  Anterior right middle lobe medial segment focal discoid 
atelectasis, left upper lobe apicoposterior segment micronodules 
suggestive of Grammy granulomas, fibrotic scars or 
intrapulmonary lymph nodes are seen.
2.  Focal posterior right lower lobe superior segment infective 
bronchiolitis is present.
3.  Incidental finding of partially occluding right descending 
pulmonary artery, right anterior, lateral and posterior basal 
segmental arterial embolism.  There is mild right heart strain 
with borderline abnormally increased right ventricle/left 
ventricle ratio greater than 0.9.
4.  No hilar or mediastinal lymphadenopathy is seen.
5.  No thoracic aortic aneurysm or dissection is seen.

Impression:
1.  Multiple metastatic hepatic tumors are seen, mostly showing 
central necrosis.
2.  Findings are compatible with pancreatic uncinate process 
carcinoma without encasement of the mesenteric artery and portal 
vein.  There is resulting occlusion, causing intrahepatic and 
extrahepatic bile duct dilatation and pancreatic duct dilatation
3.  No intestinal or colonic obstruction or abdominal 
inflammation or pneumoperitoneum is seen.
4.  Hydrops gallbladder without calcified stones.
5.  No pelvic mass lesion, abscess, or lymphadenopathy is seen.
 
Brief Hospital Course:
Brief summary:  

This is a ___ with minimal past medical history who presented 
with jaundice, elevated LFTs, and abnormal CT with concern for 
pancreatic cancer with malignant biliary obstruction. She was 
admitted and the ERCP team was consulted. She underwent ERCP 
with stent placement and biopsy. LFTs/bilirubin steadily 
improved. She was incidentally found to have pulmonary embolism 
on her CT scan and had LENIs confirming bilateral DVT, so she 
was treated with heparin gtt and subsequently therapeutic 
Lovenox. She was discharged with plans for followup with PCP, 
___, and the ___ clinic pending biopsy results.

Detailed summary by problem:

# Abdominal pain
# Nausea with early satiety
# Pancreatic mass
# Hepatic masses 
# Elevated LFTs, jaundice
# Biliary obstruction - Patient with imaging concerning for 
pancreatic carcinoma with multiple metastatic hepatic tumors 
with intrahepatic and extrahepatic bile duct dilatation and 
pancreatic duct dilatation. Underwent ERCP for stenting and 
diagnosis.
- Followup with ERCP for stent change per their schedule
- Followup with ___ clinic - scheduled for this 
___

# Pulmonary emboli with bilateral DVT - CT chest w/ contrast 
showing segmental pulmonary emboli in right descending pulmonary 
artery, right anterior lateral and posterior basal segment with 
mild right heart strain. LENIs performed confirming ___ DVTs.  
TTE reassuring against right heart strain.  She was treated with 
heparin gtt given ERCP w/ biopsy, but transitioned to Lovenox 
prior to discharge.
- Continue Lovenox indefinitely

# Anemia - Unknown baseline. She was stable here. Suspected 
anemia of chronic disease, though her mild macrocytosis is not 
clearly consistent.
- Repeat testing as outpatient, with further workup at that time

# Hyponatremia - Na 130 on admission, improved to ___ after 
admission with IVF. ___ be ___ poor PO intake.
- Monitor intermittently as outpatient, especially if worsening 
PO intake

# Concern for UTI - Patient was taking Bactrim at home given 
hematuria and concern for UTI. Urine culture here negative. 
Bactrim discontinued.

# Anxiety: Exacerbated by hospitalization/diagnosis. Seen by SW 
here. Continued Xanax (refused Ativan which I had trialed given 
ability to use more frequently).

>30 minutes spent coordinating discharge home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.5 mg PO BID 
2. fluticasone propionate (bulk) 100 % Spray BID 
3. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*90 Tablet Refills:*0 
2.  Enoxaparin Sodium 70 mg SC Q12H 
RX *enoxaparin [Lovenox] 60 mg/0.6 mL 60 mg SC twice daily Disp 
#*60 Syringe Refills:*3 
3.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
Make sure to use a bowel regimen if taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*28 Tablet Refills:*0 
4.  TraZODone 50 mg PO QHS 
RX *trazodone 50 mg 1 tablet(s) by mouth every evening Disp #*30 
Tablet Refills:*0 
5.  ALPRAZolam 0.5 mg PO BID:PRN anxiety  
6.  fluticasone propionate (bulk) 100 % Spray BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cancer uncertain type
Malignant biliary tract obstruction
Jaundice
Abdominal pain and nausea due to cancer and obstruction
DVT and PE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with biliary obstruction caused by tumor(s) 
blocking your bile ducts. You were taken for ERCP with stent 
placement to relieve the obstruction and you had biopsies done 
for diagnosis. You did well after the procedure.

You were incidentally discovered to have pulmonary embolism and 
bilateral deep vein thrombosis. You were treated with blood 
thinners.
 
Followup Instructions:
___